US08802712B2
4-(7,8-Dimethoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)-2-hydroxymethylbenzonitrile (17 mg, 44 μmol) is dissolved in N,N-dimethylformamide (2.1 ml) under argon, and methyl iodide (8.2 μl, 131 μmol) and sodium hydride (95%, 2.4 mg, 96 μmol) are subsequently added. The reaction solution is stirred at 0° C. for 2 h. After addition of a little water, the mixture is extracted with ethyl acetate and semi-saturated sodium chloride solution for work-up. The organic phase is dried over Na2SO4, filtered with suction and evaporated to dryness at 40° C. in vacuo. The residue is purified by chromatography (pHPLC, solvent gradient water/1-30% by vol. of acetonitrile, 0.1% by vol. of formic acid), and the product fractions are freeze-dried, giving 4-(7,8-dimethoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)-2-methoxymethylbenzonitrile (4 mg, 10.3 μmol) as a colourless solid. MS: 389.2 (M+H+), TLC (HPTLC): Rf=0.41 (ethyl acetate/ethanol 8:1, parts by volume).

reactant | 4-(7,8-Dimethoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)-2-hydroxymethylbenzonitrile | 44 μmol, 17 mg | COC=1C(=CC=2C3=C(C=NC2C1)N(N=C3C3=CC(=C(C#N)C=C3)CO)C)OC | C21H18N4O3
reactant | methyl iodide | 131 μmol, 8.2 μl | CI | CH3I
reactant | sodium hydride | 96 μmol, 2.4 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2.1 ml | CN(C=O)C | C3H7NO
product | 4-(7,8-dimethoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)-2-methoxymethylbenzonitrile | 10.3 μmol, 4 mg | COC=1C(=CC=2C3=C(C=NC2C1)N(N=C3C3=CC(=C(C#N)C=C3)COC)C)OC | C22H20N4O3
